US07417055B2
2-{[2-(4-{4-[4-Methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenylcarbamoyl]-benzyl}-piperazin-1-yl)-ethyl]-phenoxy-phosphinoyloxy}-propionic acid ethyl ester
A solution of N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-4-piperazin-1-ylmethyl-benzamide (20 mg, 0.04 mmol) and 2-[(2-oxo-ethyl)-phenoxy-phosphinoyloxy]-propionic acid ethyl ester (60 mg, 0.2 mmol) in 1% Acetic Acid/DMF (1.5 mL) solution was stirred at room temperature for 7 hours followed by an addition of NaCNBH3 (30 mg, 0.24 mmol). The resulting mixture was stirred for additional 30 min when completion of the reaction was observed by LCMS. After evaporation of solvent, the residue was taken up in CH2Cl2 and then extracted with saturated aqueous NaHCO3 The organic extracts were dried in vacuo and the residue was purified by silica gel chromatography using MeOH—CH2Cl2 (7%) to afford 8 mg (26%) of the product. 31P NMR (121.4 MHz, CDCl3) δ 27.2, 28.6; MS (m/z) 764 [M+H]+.

reactant | N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-4-piperazin-1-ylmethyl-benzamide | 0.04 mmol, 20 mg | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1CCNCC1)=O)NC1=NC=CC(=N1)C=1C=NC=CC1 | C28H29N7O
reactant | 2-[(2-oxo-ethyl)-phenoxy-phosphinoyloxy]-propionic acid ethyl ester | 0.2 mmol, 60 mg | C(C)OC(C(C)OP(=O)(OC1=CC=CC=C1)CC=O)=O | C13H17O6P
reactant | NaCNBH3 | 0.24 mmol, 30 mg | [BH3-]C#N.[Na+]
solvent | Acetic Acid DMF | 1.5 mL | C(C)(=O)O.CN(C)C=O
product | 2-{[2-(4-{4-[4-Methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenylcarbamoyl]-benzyl}-piperazin-1-yl)-ethyl]-phenoxy-phosphinoyloxy}-propionic acid ethyl ester | 8 mg, 26% | C(C)OC(C(C)OP(=O)(OC1=CC=CC=C1)CCN1CCN(CC1)CC1=CC=C(C=C1)C(NC1=CC(=C(C=C1)C)NC1=NC=CC(=N1)C=1C=NC=CC1)=O)=O | C41H46N7O6P
